US07851473B2
(2) 1-Ethyl-2-phenylprop-2-en-1-yl thiocyanate
A solution of 2-bromo-1-phenylbutan-1-one (5.00 g, 22.0 mmol) and potassium thiocyanate (2.14 g, 22.0 mmol) in ethanol (50 ml) was stirred at 80° C. for 2 hours. After cooling to room temperature, water (50 ml) was poured into the reaction solution, and the mixture was extracted with chloroform. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to give the desired product (4.16 g, 92.0%) as a solid.

reactant | 2-bromo-1-phenylbutan-1-one | 22.0 mmol, 5.00 g | BrC(C(=O)C1=CC=CC=C1)CC | C10H11BrO
reactant | potassium thiocyanate | 22.0 mmol, 2.14 g | [S-]C#N.[K+]
reactant | water | 50 ml | O | H2O
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 1-Ethyl-2-phenylprop-2-en-1-yl thiocyanate | 4.16 g, 92.0% | C(C)C(C(=C)C1=CC=CC=C1)SC#N | C12H13NS
